US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-3,5-dimethoxybenzamide
A suspension of 3,5-dimethoxybenzamide, 2,2-dichloropropionaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 53A to provide the desired product.

reactant | 3,5-dimethoxybenzamide | COC=1C=C(C(=O)N)C=C(C1)OC | C9H11NO3
reactant | 2,2-dichloropropionaldehyde | ClC(C=O)(C)Cl | C3H4Cl2O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-3,5-dimethoxybenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(Cl)Cl)NC(C2=CC(=CC(=C2)OC)OC)=O | C18H18Cl2N4O3
